US07241792B2
(±)-1,1-Dimethyl-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carboxylic acid ethyl ester (1.280 g, 5.81 mmol) was taken up in 7M methanolic ammonia (60 mL) in a sealed flask and heated to 100° C. for 18 hours. The resulting suspension was collected by vacuum filtration to give 1,1-dimethyl-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carboxylic acid amide as a cream solid. Solvent was removed from the mother liquor and the residue purified by preparative HPLC to give further (±)-1,1-dimethyl-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carboxylic acid amide as a cream solid. m/z (ES+): 192 [M+H]+, 175 [M−NH2]+; 1H NMR (CD3OD): δ 2.9–2.65 (m, 1H), 2.55 (t, 1H, J=19.9), 2.0–1.8 (m, 2H), 1.03 (s, 3H), 0.63 (s, 3H).

reactant | (±)-1,1-Dimethyl-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carboxylic acid ethyl ester | 5.81 mmol, 1.280 g | C(C)OC(=O)C1=C2CC3C(C2=NN1)C3(C)C | C12H16N2O2
reactant | ammonia | 7M, 60 mL | N | H3N
product | 1,1-dimethyl-1a,3,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carboxylic acid amide | CC1(C2C1CC1=C(NN=C21)C(=O)N)C | C10H13N3O
